* Created by KLayout
*** My special header ***

* cell sram_2w2b
* pin BL0
* pin BL1
* pin BLB0
* pin BLB1
* pin Q
* pin Q
* pin Q
* pin Q
* pin QB
* pin QB
* pin QB
* pin QB
* pin VDD
* pin VSS
* pin WL0
* pin WL1
.SUBCKT sram_2w2b BL0 BL1 BLB0 BLB1 Q Q$1 Q$2 Q$3 QB QB$1 QB$2 QB$3 VDD VSS WL0
+ WL1
* device instance $1 r0 *1 -376.4,10198 PMOS
XM$1 QB Q$1 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $2 r0 *1 -370.8,10198 PMOS
XM$2 VDD QB Q$1 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $3 r0 *1 -376.4,10206 PMOS
XM$3 VDD Q$3 QB$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $4 r0 *1 -370.8,10206 PMOS
XM$4 VDD QB$2 Q$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $5 r0 *1 -402.6,10198 PMOS
XM$5 Q QB$1 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $6 r0 *1 -397,10198 PMOS
XM$6 VDD Q QB$1 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $7 r0 *1 -402.6,10206 PMOS
XM$7 VDD QB$3 Q$2 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $8 r0 *1 -397,10206 PMOS
XM$8 VDD Q$2 QB$3 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $9 r0 *1 -402.6,10228.1 NMOS
XM$9 Q$2 QB$3 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $10 r0 *1 -397,10228.1 NMOS
XM$10 VSS Q$2 QB$3 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $11 r0 *1 -406.1,10235 NMOS
XM$11 Q$2 WL1 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $12 r0 *1 -393.6,10235 NMOS
XM$12 QB$3 WL1 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $13 r0 *1 -406.1,10169 NMOS
XM$13 BL0 WL0 Q VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $14 r0 *1 -393.6,10169 NMOS
XM$14 BLB0 WL0 QB$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $15 r0 *1 -402.6,10175.9 NMOS
XM$15 Q QB$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $16 r0 *1 -397,10175.9 NMOS
XM$16 QB$1 Q VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $17 r0 *1 -379.9,10169 NMOS
XM$17 BLB1 WL0 QB VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $18 r0 *1 -367.4,10169 NMOS
XM$18 BL1 WL0 Q$1 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $19 r0 *1 -376.4,10175.9 NMOS
XM$19 QB Q$1 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $20 r0 *1 -370.8,10175.9 NMOS
XM$20 Q$1 QB VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $21 r0 *1 -376.4,10228.1 NMOS
XM$21 QB$2 Q$3 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $22 r0 *1 -370.8,10228.1 NMOS
XM$22 VSS QB$2 Q$3 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $23 r0 *1 -379.9,10235 NMOS
XM$23 QB$2 WL1 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $24 r0 *1 -367.4,10235 NMOS
XM$24 Q$3 WL1 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
.ENDS sram_2w2b
